US06900336B2
40 mL of DMF were added to 1.27 g (31.67 mmol, 60% dispersion in mineral oil) NaH and 5.26 g (31.67 mmol) KI at 0° C. under N2. A solution of 3.50 g (30.16 mmol) of (S)-(+)-dihydro-5-hydroxymethyl-2(3H)furanone (Aldrich) in 15 mL of DMF was then added drop wise. Slurry was allowed to warm to room temperature and stir for 2.5 hours, 5.4 mL (45.24 mmol) benzyl bromide were then added drop wise and mixture was heated to 50° C. and allowed to stir for 16 hours. Reaction was partitioned between 250 mL saturated NH4Cl(aq) and 250 mL ethyl acetate/hexane (60%). Organic layer was washed with water (3×200 mL), 200 mL brine, dried over Magnesium Sulfate and concentrated under reduced pressure. Crude residue was purified via chromatography, eluting with 35% ethyl acetate/hexane yielding 3.37 g (16.34 mmol, 54% yield) (S)—O-Benzyl-dihydro-5-hydroxymethyl-2(3H)furanone as a yellow oil. Step 2

reactant | NaH | 31.67 mmol, 1.27 g | [H-].[Na+]
reactant | (S)-(+)-dihydro-5-hydroxymethyl-2(3H)furanone | 30.16 mmol, 3.50 g | OC[C@@H]1CCC(O1)=O | C5H8O3
reactant | benzyl bromide | 45.24 mmol, 5.4 mL | C(C1=CC=CC=C1)Br | C7H7Br
solvent | DMF | 15 mL | CN(C)C=O | C3H7NO
solvent | DMF | 40 mL | CN(C)C=O | C3H7NO
product | ethyl acetate hexane | 16.34 mmol, 3.37 g, 54% yield | C(C)(=O)OCC.CCCCCC | InChI=1S/C6H14.C4H8O2/c1-3-5-6-4-2;1-3-6-4(2)5/h3-6H2,1-2H3;3H2,1-2H3
